### PR TITLE
feat(Language): characterizing regular languages as preimages of subsets of finite monoids

### PR DESCRIPTION
**Pull request by ctchou**
This PR develops yet another characterization of regular languages:

A language is regular if and only if it is the preimage of a subset of a finite monoid `M` under a monoid homomorphism from the free monoid on its alphabet to `M`.

### CODE REVIEW

**Comment by ctchou** [comment]
Now that https://github.com/leanprover/cslib/pull/903 is merged, this PR is ready for review.

File: Cslib/Computability/Languages/SyntacticMonoid.lean [hunk 1]
```diff
@@ -40,9 +40,94 @@ def Congruence.toCon [c : Congruence α] : Con (FreeMonoid α) where
...
+
 /-- A language `l` is regular if and only if its syntactic monoid is finite. -/
 theorem IsRegular.iff_finite_syntacticMonoid (l : Language α) :
     l.IsRegular ↔ Finite (l.SyntacticMonoid) :=
   IsRegular.iff_finite_myhillQuotient l
 
+/-- The congruence induced by `homSyntacticMonoid` is the Myhill congruence. -/
+theorem homSyntacticMonoid_myhillCongruence {l : Language α} {x y : List α}
+    (h : l.homSyntacticMonoid (ofList x) = l.homSyntacticMonoid (ofList y)) :
+    l.MyhillCongruence.eq x y := by
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Languages/SyntacticMonoid.lean:58]: We can make this the iff instead of an implicaton.

File: Cslib/Computability/Languages/SyntacticMonoid.lean [hunk 2]
```diff
@@ -40,9 +40,94 @@ def Congruence.toCon [c : Congruence α] : Con (FreeMonoid α) where
...
+def inducedCongr : RightCongruence α where
+  eq := Setoid.ker (f ∘ ofList)
+  right_cov.elim := by
+    intro x y z
+    simp only [Setoid.ker_def, Function.comp_apply, ofList_append, map_mul]
+    grind
+
+instance [h : Finite M] :
+    Finite (Quotient (inducedCongr f).eq) :=
+  Finite.of_equiv _ (Setoid.quotientKerEquivRange f).symm
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Languages/SyntacticMonoid.lean]: This relies on FreeMonoid unfolding to List. Instead, we could do

```lean
instance [Finite M] : Finite (Quotient (inducedCongr f).eq) :=
  Finite.of_equiv _ (Setoid.quotientKerEquivRange (f ∘ ofList)).symm
```

This version also removed the unused `h` binder.

File: Cslib/Computability/Languages/SyntacticMonoid.lean [hunk 3]
```diff
@@ -40,9 +40,94 @@ def Congruence.toCon [c : Congruence α] : Con (FreeMonoid α) where
...
+
+/-- The preimage of a subset of a finite monoid `M` under a monoid homomorphism
+from the free monoid to `M` is regular. -/
+theorem IsRegular.of_finite_monoid [Finite M]
+    (s : Set M) : IsRegular ((f ∘ ofList) ⁻¹' s) := by
+  have h : (f ∘ ofList) ⁻¹' s = ⨆ m ∈ s, (f ∘ ofList) ⁻¹' {m} := by
+    simp only [Set.iSup_eq_iUnion, Set.biUnion_preimage_singleton]
+  rw [h]
+  apply IsRegular.iSup
+  simp [IsRegular.of_finite_monoid_singleton]
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Languages/SyntacticMonoid.lean:119]: I think there is a better proof:

```lean
theorem IsRegular.of_finite_monoid [Finite M]
    (s : Set M) : IsRegular ((f ∘ ofList) ⁻¹' s) := by
  apply IsRegular.iff_dfa.mpr
  refine ⟨_, inferInstance, ⟨(inducedCongr f).toDA, Quotient.mk _ '' ((f ∘ ofList) ⁻¹' s)⟩, ?_⟩
  ext x
  simp only [mem_language, Accepts, congr_mtr_eq, Set.mem_image, Set.mem_preimage,
    Function.comp_apply, Quotient.eq]
  refine ⟨fun ⟨y, hy, he⟩ ↦ ?_, fun h ↦ ⟨x, h, rfl⟩⟩
  have he : f (ofList y) = f (ofList x) := he
  change f (ofList x) ∈ s
  exact he ▸ hy
```

File: Cslib/Computability/Languages/SyntacticMonoid.lean
Comment (SamuelSchlesinger) [inline Cslib/Computability/Languages/SyntacticMonoid.lean]: We should mention the new theorem: `IsRegular.iff_finite_monoid` here.

File: Cslib/Computability/Languages/SyntacticMonoid.lean [hunk 4]
```diff
@@ -40,9 +40,94 @@ def Congruence.toCon [c : Congruence α] : Con (FreeMonoid α) where
...
+    specialize heq [] []
+    simp only [List.nil_append, List.append_nil] at heq
+    exact heq.mp hy
+  · exact Set.subset_preimage_image _ _
+
+section FiniteMonoid
+
+variable {M : Type*} [Monoid M] (f : FreeMonoid α →* M)
+
+/-- Given a a monoid homomorphism `f` from `FreeMonoid α` to another monoid `M`,
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Languages/SyntacticMonoid.lean]: Typo: double `a`.

**Review by SamuelSchlesinger — CHANGES_REQUESTED** [review]
This is quite close, but I think can be improved a bit.

File: Cslib/Computability/Languages/SyntacticMonoid.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Computability/Languages/SyntacticMonoid.lean]: Fixed.  Thanks!

File: Cslib/Computability/Languages/SyntacticMonoid.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Computability/Languages/SyntacticMonoid.lean:119]: I'm not sure this is a better proof.  I think my proof is conceptually clearer:
(1) First, `IsRegular.of_finite_monoid_singleton` (to which I'll add a comment) shows that the preimage of a singleton is regular., using `IsRegular.congr_fin_index`.
(2) Then I use the fact that `M` is finite and invoke `IsRegular.iSup` to prove that the preimage of any subset of `M` is finite.
Your proof seems to go back to the characterization of regular languages using DFAs and re-prove the relevant parts of the results I used.  I think I prefer to invoke previous results.

File: Cslib/Computability/Languages/SyntacticMonoid.lean
Comment (ctchou) [reply Cslib/Computability/Languages/SyntacticMonoid.lean]: Fixed.

File: Cslib/Computability/Languages/SyntacticMonoid.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Computability/Languages/SyntacticMonoid.lean]: Fixed.

File: Cslib/Computability/Languages/SyntacticMonoid.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Computability/Languages/SyntacticMonoid.lean:58]: Fixed.

File: Cslib/Computability/Languages/SyntacticMonoid.lean (hunk 3 above)
Comment (SamuelSchlesinger) [reply Cslib/Computability/Languages/SyntacticMonoid.lean:119]: You've convinced me, thanks.

**Review by SamuelSchlesinger — APPROVED** [review]
